US05236950
A solution of 5.00 g of N-trichloroethoxycarbonylglycine and 6.10 g of 4-(N,N-dimethylamino)pyridine dissolved in 35 ml of methylene chloride was cooled to -50° C. Thereinto was dropped 2.10 g of methanesulfonyl chloride. After the completion of the dropping, the resulting mixture was stirred at the same temperature for 1 hour. Thereinto was dropped 4.93 g of phytol at the same temperature, after which the temperature of the reaction mixture was elevated to room temperature in 6 hours. The reaction mixture was then washed with 2N hydrochloric acid, 3% aqueous sodium hydrogencarbonate solution and water in this order and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue obtained was dissolved in 86 ml of tetrahydrofuran. To the resulting solution were added 86 ml of 0.5N aqueous potassium primary phosphate solution and 13.40 g of zinc powder. The resulting mixture was stirred for 2 hours at room temperature. The reaction mixture was filtered. The filtrate was concentrated under reduced pressure. To the residue obtained was added 30 ml of ethyl acetate. The resulting mixture was washed with 2N hydrochloric acid and then dried over anhydrous magnesium sulfate. Into the resulting solution was introduced hydrogen chloride gas. Then, the solvent was removed from the resulting solution by distillation under reduced pressure to obtain 5.80 g (yield: 90%) of oily glycylphytyl hydrochloride.

reactant | N-trichloroethoxycarbonylglycine | 5.00 g | ClC(COC(=O)NCC(=O)O)(Cl)Cl | C5H6Cl3NO4
reactant | methanesulfonyl chloride | 2.10 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | phytol | 4.93 g | CC(C)CCC[C@@H](C)CCC[C@@H](C)CCC\C(\C)=C\CO | C20H40O
reactant | potassium | 0.5N, 86 ml | [K] | K
catalyst | 4-(N,N-dimethylamino)pyridine | 6.10 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 86 ml | O1CCCC1 | C4H8O
catalyst | zinc | 13.40 g | [Zn] | Zn
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | glycylphytyl hydrochloride | 5.80 g, yield: 90% | NCC(=O)[ClH]C\C=C(/C)\CCC[C@H](C)CCC[C@H](C)CCCC(C)C | C22H44ClNO
